US07750034B2
Step A: 4-Methyl-N,N-diprop-2-yn-1-ylbenzenesulfonamide
To a solution of p-toluenesulfonamide (2.55 g) in acetone (100 mL) were added potassium carbonate (4.44 g) and propargyl chloride (5 g) and the mixture was refluxed overnight. The mixture was cooled, diluted with ether and brine. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified on a Biotage Horizon® system (silica, ethyl acetate gradient 13-25% in hexane) to yield the title compound.

reactant | p-toluenesulfonamide | 2.55 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | potassium carbonate | 4.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl chloride | 5 g | C(C#C)Cl | C3H3Cl
reactant | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
product | 4-Methyl-N,N-diprop-2-yn-1-ylbenzenesulfonamide | CC1=CC=C(C=C1)S(=O)(=O)N(CC#C)CC#C | C13H13NO2S
